US07902394B2
2-Methyl-1-(4-methoxyphenyl)-2-propanamine (19.0 g, 0.10 mol) was dissolved in tert-butyl methyl ether (200 mL) and cooled to 0° C. A solution of 1.3 M HCl in 1,4-dioxane (85 mL) was added through an addition funnel over a period of 10 min. After the addition was complete, stirring was continued for additional 20 min at 0° C. The resulting precipitate was collected by filtration through a sintered glass funnel. The solid was washed with tert-butyl methyl ether (3×50 mL), and dried in vacuum oven for 30 h at 40° C. to afford 21.0 g (92%) of 2-methyl-1-(4-methoxyphenyl)-2-propanamine hydrochloride as a white solid; 1H NMR (200 MHz, DMSO-d6) δ 7.14 (d, J=8.4 Hz, 2H), 6.88 (d, J=8.4 Hz, 2H), 3.72 (s, 3H), 2.80 (s, 2H), 1.17 (s, 6H); 13C NMR (50 MHz, DMSO-d6) δ 158.1, 131.4, 127.2, 113.6, 54.9, 53.7, 44.1, 24.6; ESI MS m/z 180 [C11H17NO+H]+.

reactant | 2-Methyl-1-(4-methoxyphenyl)-2-propanamine | 0.10 mol, 19.0 g | CC(CC1=CC=C(C=C1)OC)(C)N | C11H17NO
reactant | HCl | 1.3 M | Cl | ClH
solvent | tert-butyl methyl ether | 200 mL | COC(C)(C)C | C5H12O
solvent | 1,4-dioxane | 85 mL | O1CCOCC1 | C4H8O2
product | 2-methyl-1-(4-methoxyphenyl)-2-propanamine hydrochloride | 21.0 g, 92% | Cl.CC(CC1=CC=C(C=C1)OC)(C)N | InChI=1S/C11H17NO.ClH/c1-11(2,12)8-9-4-6-10(13-3)7-5-9;/h4-7H,8,12H2,1-3H3;1H
